* C:\Users\circuit\spice\saradc\module1.asc
M1 N012 N017 N020 N015 CMOSN l={L2} w={W2} m={M2}
M2 N021 N024 N025 N022 CMOSN l={L3} w={W3} m={M3}
M3 N007 N003 N001 N005 CMOSP l={L4} w={W4} m={M4}
M4 N008 N004 N002 N006 CMOSP l={L5} w={W5} m={M5}
M5 N011 N016 N018 N013 CMOSN l={L1} w={W1} m={M1}
XX1 VDD N001 para_register
XX2 VDD N005 para_register
XX3 VDD N006 para_register
XX4 VDD N002 para_register
XX5 N003 CLK para_register
XX6 CLK N004 para_register
XX7 N009 N007 para_register
XX8 N010 N008 para_register
XX9 VINP N016 para_register
XX10 N013 N014 para_register
XX11 N014 N015 para_register
XX12 N017 VINN para_register
XX13 N018 N019 para_register
XX14 N019 N020 para_register
XX15 N019 N021 para_register
XX16 N014 N023 para_register
XX17 N024 CLK para_register
XX18 N023 N022 para_register
XX19 N025 VSS para_register
XX20 N023 VSS para_register
XX21 N011 N009 para_register
XX22 N012 N010 para_register
XX23 N009 FP para_register
XX24 FN N010 para_register

* block symbol definitions
.subckt para_register in out
R1 out in 0.0001
.ends para_register

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.backanno
.end
